Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Encephalopathy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with history of ___ 
disease, esophageal dysmotility, reactive airway disease 
presenting from home via EMS with inability to ambulate.

History is taken primarily from the patient's son, ___, who is 
at the bedside. He reports that the patient had been in her 
usual state of health until this morning. She gets her 
___ medications at 0700, and then 1000, 1300, 1600, 
___. Her son reports that he gave her the morning dose as 
usual. Then around ___ he tried to get her out of bed, but 
noted that she seemed too weak to stand and had to support her. 
He is not sure whether she seemed more stiff than usual. He then 
gave her the 1000 dose of carbidopa/levodopa, thinking that this 
may be related to her ___ (the patient's Neurologist has 
been uptitrating her dose recently). The patient was able to 
stand after getting her 1000 dose of medication, but she still 
seemed more weak than usual, so he called the ambulance.

Upon EMS arrival she was also found to be hypoxic. She has not 
been expressing any shortness of breath prior to EMS arrival. 
Her son reports that due to her esophageal dysmotility she 
someone has choking/aspiration episodes, but he states that she 
has not had any on the day of presentation. No cough. No fevers, 
chills, nausea, vomiting, diarrhea, dysuria, or increased 
urinary frequency. Her son reports that she has not been eating 
or drinking much today. 

Of note, the patient was recently admitted from ___ with 
hypoxia that was thought to be due to viral upper respiratory 
infection triggering reactive airway disease.

In the ED, vitals: 98.5 88 95/58 24 94% 2L NC 

Exam: The patient is alert and oriented ×2. She is in no acute 
respiratory distress. She is tremulous. Eye exam limited due to 
patient's blindness. Heart with regular rate and rhythm. Lungs 
clear to auscultation bilaterally. Abdomen soft nontender 
nondistended. 5 out of 5 strength in upper and lower 
extremities. Left upper extremity with increased tone, at 
baseline per patient's son. No peripheral edema.

Labs notable for: WBC 8.4 H/H 11.0/33.5, plt 155; BMP wnl; 
urinalysis grossly positive with +bacteria, WBC 14, lg leuks, 
pos nitrites.

Imaging:
- CXR: No acute cardiopulmonary abnormality. 

Patient given:
___ 15:09 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 15:09 IH Ipratropium Bromide Neb 1 NEB  
___ 20:08 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 20:08 IH Ipratropium Bromide Neb 1 NEB 
___ 20:08 IV CefTRIAXone  
___ 20:12 IV CefTRIAXone 1 gm L
___ 21:55 PO/NG Carbidopa-Levodopa (___) 1.5 TAB 
___ 21:55 PO/NG ALPRAZolam .25 mg 

On interview, the patient states that she is tired. She denies 
shortness of breath or dysuria. She otherwise falls asleep 
during the interview and history is primarily taken from her son 
as above.

ROS: Unable to obtain due to patient's mental status.

 
Past Medical History:
___ Disease  
HTN 
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Bronchitis 
Hypothyroidism  

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.

 
Physical Exam:
EXAM on Admission
VITALS: 97.8 86/50 81 22 94-95% on room air
GENERAL: Sleeping but arousable, in no acute distress
EYES: Anicteric, eye exam limited due to patient blindness
ENT: Dry mucous membranes, oral thrush
CV: RRR
RESP: Lungs clear to auscultation with good air movement 
bilaterally without wheezing. Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.Bowel 
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Moves all extremities, bilateral contractures in upper 
extremities
SKIN: No rashes or ulcerations noted
NEURO: Sleeping but arousable to voice, right nasolabial fold 
flattening, gaze conjugate with EOMI, speech fluent, moves all 
limbs, strength intact in bilateral upper and lower extremities, 
sensation to light touch grossly intact throughout

Exam on Discharge
VITALS: ___ 0726 Temp: 98.4 PO BP: 152/82 HR: 61 RR: 22 O2 
sat: 100% O2 delivery: RA  
GENERAL: As above, awake and alert, in no acute distress
EYES: Anicteric, eye exam limited due to patient blindness
ENT: Dry mucous membranes, oral thrush
CV: RRR
RESP: Lungs clear to auscultation with good air movement 
bilaterally without wheezing. Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Moves all extremities, bilateral contractures in upper 
extremities
SKIN: Thin fragile skin but no rashes or ulcerations noted
NEURO: Interactive, gravitational facial droop, gaze conjugate 
with EOMI, speech fluent, moves all limbs, strength intact in 
bilateral upper and lower extremities, sensation to light touch 
grossly intact throughout
 
Pertinent Results:
Labs this admission

___ 03:00PM BLOOD WBC-8.4 RBC-3.61* Hgb-11.0* Hct-33.5* 
MCV-93 MCH-30.5 MCHC-32.8 RDW-16.2* RDWSD-54.7* Plt ___
___ 07:15AM BLOOD WBC-8.8 RBC-3.16* Hgb-9.5* Hct-29.7* 
MCV-94 MCH-30.1 MCHC-32.0 RDW-16.1* RDWSD-55.5* Plt ___
___ 03:00PM BLOOD Glucose-119* UreaN-19 Creat-0.7 Na-143 
K-4.5 Cl-101 HCO3-27 AnGap-15
___ 07:15AM BLOOD Glucose-83 UreaN-18 Creat-0.6 Na-144 
K-3.7 Cl-103 HCO3-28 AnGap-13
___ 07:15AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.5
___ 05:50PM URINE Blood-NEG Nitrite-POS* Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-LG*
___ 05:50PM URINE RBC-2 WBC-14* Bacteri-MANY* Yeast-NONE 
Epi-3 TransE-<1

Microbiology this admission

Blood culture - NGTD
Urine culture - ESCHERICHIA COLI. >100,000 CFU/mL. AMPICILLIN 
susceptible.

Radiology this admission

CXR: I have reviewed the CXR personally and my read is: No focal 
consolidation suggestive of pneumonia or pulmonary edema.

HEAD CT: No acute abnormality.
 
Brief Hospital Course:
Brief summary: 

This is a ___ with ___ disease, esophageal dysmotility, 
reactive airway disease presenting from home via EMS with 
inability to ambulate. In the ED she was hypotensive, 
transiently mildly hypoxic, and clearly weak and 
encephalopathic. She was found to have a UTI and also thought to 
be hypovolemic. She improved very impressively with fluid 
resuscitation and antibiotic therapy, to near-baseline (though 
very poor functional status at this baseline). Her antibiotics 
were transitioned to a narrowed spectrum oral regimen prior to 
discharge.

Detailed summary:

# Urinary tract infection: Patient presenting with inability to 
ambulate, found to have positive urinalysis on admission. 
Patient denied symptoms, and was afebrile and without 
leukocytosis, but given her encephalopathy and difficulty 
ambulating, treatment was initiated with ceftriaxone. She 
improved with therapy. Urine culture with >100K E coli, 
pansusceptible. Narrowed to amoxicillin at discharge.
- Complete course of amoxicillin 500mg PO TID x5 more days

# Acute toxic metabolic encephalopathy: Patient sleepy but 
arousable on initial interview, with subsequent course notable 
for waxing/waning alertness. She improved with treatment of UTI 
and dehydration/hypovolemia.

# Inability to ambulate: Patient presenting with inability to 
ambulate, likely due to hypovolemia and UTI. Patient was noted 
to have right nasolabial flattening on exam, son is not sure if 
this was new; neurological exam otherwise seems to be at 
baseline and strength intact in upper and lower extremities and 
head CT was performed for this reason and was negative - likely 
gravitational based on serial exams. She was continued on her 
usual ___ disease medications. Her physical functioning 
improved to near-baseline (which is poor) after treatment of 
UTI/dehydration. She was seen by ___ who recommended discharge 
back to home with 24 hour care.

# Hypotension
# Hypovolemia/dehydration: Patient noted on arrival to be 
hypotensive to the systolic ___, not clearly symptomatic. 
Patient appeared dry on exam, and per report from son has not 
had much to eat or drink day of admission. BPs improved with 
IVF. Of note, patient also on prednisone 10 mg per day at home, 
completed steroid taper from last admission.

# Acute hypoxic respiratory failure: Patient found to be 
hypoxic, requiring 1L oxygen via NC in the ED. Patient was able 
to be weaned to room air upon arrival. CXR clear without 
evidence of pneumonia, pulmonary edema, or aspiration. On exam, 
patient has no wheezing to suggest acute exacerbation of her 
reactive airway disease. ___ have been aspiration event.  
Followed by Dr. ___. Home medications were continued.

# Thrush: Mild. Resolved with some nystatin. 
- Rinse mouth after inhaled steroids

# Esophageal dysmotility: Continued aspiration precautions with 
pureed solids and thickened liquids. She was seen by SLP who 
felt she was doing fairly well and could likely tolerate thin 
liquids (no straws).

# Anemia: Chronic, stable
# ___ disease: Continued carbidopa/levodopa
# Glaucoma: Continued eye gtts
# Hypothyroidism: Continued levothyroxine
# Hypertension: Controlled without medications
# Hyperlipidemia: Continued atorvastatin
# Anxiety: Continued alprazolam as needed
# Insomnia: Continued trazodone; substitute ramelteon for 
melatonin

>30 minutes spent coordinating discharge home with services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Atorvastatin 20 mg PO QPM 
3. carbidopa 25 mg oral QAM 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Hyoscyamine 0.125 mg SL TID:PRN abd pain 
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
7. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 

11. TraZODone 12.5 mg PO QHS:PRN insomnia 
12. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
13. melatonin 3 mg oral QHS 
14. Nexium 40 mg Other DAILY 
15. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 
16. Carbidopa-Levodopa (___) 2 TAB PO BID 
17. Carbidopa-Levodopa (___) 1.5 TAB PO BID 
18. Carbidopa-Levodopa (___) 1 TAB PO ___ 
19. PredniSONE 10 mg PO DAILY 
20. Mylanta 10 mL oral QID:PRN 
21. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Amoxicillin 500 mg PO Q8H Duration: 5 Days 
RX *amoxicillin 500 mg 1 tablet(s) by mouth three times daily 
Disp #*15 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  ALPRAZolam 0.25 mg PO TID:PRN anxiety  
4.  Atorvastatin 20 mg PO QPM  
5.  Carbidopa-Levodopa (___) 2 TAB PO BID  
6.  Carbidopa-Levodopa (___) 1.5 TAB PO BID  
7.  Carbidopa-Levodopa (___) 1 TAB PO ___  
8.  carbidopa 25 mg oral QAM  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
10.  Hyoscyamine 0.125 mg SL TID:PRN abd pain  
11.  Ipratropium Bromide Neb 1 NEB IH Q6H  
12.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
13.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob  
14.  Levothyroxine Sodium 25 mcg PO DAILY  
15.  melatonin 3 mg oral QHS  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Mylanta 10 mL oral QID:PRN heartburn  
18.  Nexium 40 mg Other DAILY  
19.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild  
20.  Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation 
BID  
21.  PredniSONE 10 mg PO DAILY  
22.  TraZODone 12.5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection
Hypovolemia/dehydration
___ disease
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You were admitted with weakness and difficulty moving. You were 
found to have a urinary tract infection and dehydration. You 
were treated with antibiotics and you improved.
 
Followup Instructions:
___